US06436923B1
A. 6-Methoxy-2-(4-methoxybenzoyl)-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared as described in Example 24.A, using 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.72 g, 2.0 mmol) and 4-methoxybenzoyl chloride (0.512 g, 3.0 mmol) to provide the title compound (0.717 g, 73% yield): ES-MS (m/z) 494 [M+H]+.

reactant | 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 2.0 mmol, 0.72 g | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | 4-methoxybenzoyl chloride | 3.0 mmol, 0.512 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 6-Methoxy-2-(4-methoxybenzoyl)-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.717 g, 73% yield | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(C1=CC=C(C=C1)OC)=O | C32H31NO4
